US07378409B2
The entirety of tert-butyl(1R,3R,4S)-3-((S)-1-hydroxy-2-methylpropyl)-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate prepared in previous Step (1 eq) in CH2Cl2 (20 mL) was added TFA (4 mL) at RT. The reaction was stirred for 5 h and concentrated in vacuo. The residue was partitioned between 1N NaOH (30 mL) and EtOAc (40 mL). The aqueous layer was extracted with EtOAc (2×50 mL) and the organic phases were combined, washed with brine (25 mL), dried (Na2SO4), filtered, and concentrated in vacuo to give N-(2-((1S,2R,4R)-4-amino-2-((S)-1-hydroxy-2-methylpropyl)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide. MS found: (M+H)+=416.

reactant | tert-butyl(1R,3R,4S)-3-((S)-1-hydroxy-2-methylpropyl)-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate | O[C@@H](C(C)C)[C@@H]1C[C@@H](CC[C@@H]1NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)NC(OC(C)(C)C)=O | C25H36F3N3O5
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | N-(2-((1S,2R,4R)-4-amino-2-((S)-1-hydroxy-2-methylpropyl)cyclohexylamino)-2-oxoethyl)-3-(trifluoromethyl)benzamide | N[C@H]1C[C@H]([C@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)[C@H](C(C)C)O | C20H28F3N3O3
